US07253194B2
(S)-5-(1-Benzyl-1H-indol-3-yl)-4-(7-phenyl-heptanoylamino)-pentanoic acid (19)
To a solution of 5-(1-benzyl-1H-indol-3-yl)-4-(7-phenyl-heptanoylamino)-pentanoic acid methyl ester (48 mg, 0.092 mmol) in MeOH (0.5 mL) was added KOH (100 mg, 1.79 mmol) in water (0.5 mL). THF (1 mL) was added to homogenise the solution and the reaction was complete in 40 min. The solvents were removed and water added. Upon washing with Et2O the aqueous layer was acidified with aqueous HCl and the resultant precipitate filtered. Upon drying the solid was recrystallised from THF/Et2O to afford the title compound (30 mg, 64%), mp 130.4-131.9° C. 13C NMR (DMSO-d6) δ 174.3, 171.8, 142.3, 138.4, 135.9, 128.4, 128.2, 128.2, 127.2, 127.1, 126.8, 125.5, 121.1, 118.9, 118.5, 111.3, 109.9, 48.9, 48.6, 35.5, 35.1, 30.9, 30.7, 30.5, 29.1, 28.5, 28.4, 25.2. ISMS: 511 (M+H).

reactant | 5-(1-benzyl-1H-indol-3-yl)-4-(7-phenyl-heptanoylamino)-pentanoic acid methyl ester | 0.092 mmol, 48 mg | COC(CCC(CC1=CN(C2=CC=CC=C12)CC1=CC=CC=C1)NC(CCCCCCC1=CC=CC=C1)=O)=O | C34H40N2O3
reactant | KOH | 1.79 mmol, 100 mg | [OH-].[K+]
reactant | THF | 1 mL | C1CCOC1 | C4H8O
solvent | MeOH | 0.5 mL | CO | CH4O
solvent | water | 0.5 mL | O | H2O
product | (S)-5-(1-Benzyl-1H-indol-3-yl)-4-(7-phenyl-heptanoylamino)-pentanoic acid | 30 mg, 64% | C(C1=CC=CC=C1)N1C=C(C2=CC=CC=C12)C[C@H](CCC(=O)O)NC(CCCCCCC1=CC=CC=C1)=O | C33H38N2O3
